US05093370
1,4-Bis(7-triethylammonioheptyl)benzene diiodide
To solution of 97 mg of 1,4-bis(7-diethylaminoheptyl)benzene in 1 ml of absolute ethanol, was added 187 μl of ethyl iodide, and the mixture was refluxed for 3 hours and evaporated under a reduced pressure. After adding acetone, the mixture was concentrated and allowed to stand in a freezer for a week to obtain 152 mg of the title compound as a pale brown crystal.

reactant | 1,4-bis(7-diethylaminoheptyl)benzene | 97 mg | C(C)N(CCCCCCCC1=CC=C(C=C1)CCCCCCCN(CC)CC)CC | C28H52N2
reactant | ethyl iodide | 187 μl | C(C)I | C2H5I
reactant | ethanol | 1 ml | C(C)O | C2H6O
product | 1,4-Bis(7-triethylammonioheptyl)benzene diiodide | 152 mg | [I-].[I-].C(C)[N+](CCCCCCCC1=CC=C(C=C1)CCCCCCC[N+](CC)(CC)CC)(CC)CC | InChI=1S/C32H62N2.2HI/c1-7-33(8-2,9-3)29-21-17-13-15-19-23-31-25-27-32(28-26-31)24-20-16-14-18-22-30-34(10-4,11-5)12-6;;/h25-28H,7-24,29-30H2,1-6H3;2*1H/q+2;;/p-2
